US09238640B2
To a cold (0° C.) solution of potassium hydride (suspension in mineral oil, 0.79 g, 5.90 mmol) in anhydrous THF (60 mL) was added a solution of (5-bromo-1H-indole-2-ylmethyl)-dimethyl amine (1.24 g, 4.90 mmol) in anhydrous THF (20 mL) was added dropwise at 0° C. over a period of 15 minutes under nitrogen. Stirring was continued for 30 minutes at 0° C., then cooled to −10° C. n-Butyl lithium (1.6 M solution in hexanes, 7.4 mL, 11.7 mmol) was added rapidly. Stirring was continued at −10° C. for 1 h. Then, anhydrous DMF (5.0 mL) was added, and the mixture was allowed to warm to room temperature over 2 h. The reaction mixture was carefully quenched with 1N aq. HCl (10 mL). The reaction mixture was diluted with ethyl acetate (150 mL). The organic phase was separated, washed with water (100 mL), then brine (100 mL), and dried over anhydrous Na2SO4. The solvent was evaporated to give 2-dimethylaminomethyl-1H-indole-5-carbaldehyde as an orange-colored gummy material. Yield: 0.91 g (crude). This product was used in next step without further purification.

reactant | potassium hydride | 5.90 mmol, 0.79 g | [H-].[K+]
reactant | (5-bromo-1H-indole-2-ylmethyl)-dimethyl amine | 4.90 mmol, 1.24 g | BrC=1C=C2C=C(NC2=CC1)CN(C)C | C11H13BrN2
reactant | n-Butyl lithium | 11.7 mmol, 1.6 M, 7.4 mL | C(CCC)[Li]
reactant | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-dimethylaminomethyl-1H-indole-5-carbaldehyde | CN(C)CC=1NC2=CC=C(C=C2C1)C=O | C12H14N2O
